US07585885B2
5-Isopropoxy-N-methyl-N-propyl-isophthalamic acid methyl ester
Mix 5-isopropoxy-isophthalic acid monomethyl ester (3 g, 12.7 mmol), methyl propyl amine (1.3 mL, 12.7 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (2.4 g, 12.7 mmol), and 1-hydroxybenzotriazole hydrate (1.7 g, 12.7 mmol) in dichloromethane (50 mL) and stir overnight at room temperature. Dilute with dichloromethane (50 mL), wash with water, 5% aqueous ammonium chloride solution, 5% aqueous sodium bicarbonate solution, dry (sodium sulfate) and concentrate to give the title product which is used directly without further purification.

reactant | 5-isopropoxy-isophthalic acid monomethyl ester | 12.7 mmol, 3 g | COC(C1=CC(C(=O)O)=CC(=C1)OC(C)C)=O | C12H14O5
reactant | methyl propyl amine | 12.7 mmol, 1.3 mL | CNCCC | C4H11N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 12.7 mmol, 2.4 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 12.7 mmol, 1.7 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-Isopropoxy-N-methyl-N-propyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)OC(C)C)=O | C16H23NO4
